US04505882
Namely, solid uranium hexafluoride (UF6) is heated to vaporize, the UF6 gas is hydrolyzed with deionized water to uranyl fluoride (UO2F2) solution. The UO2F2 solution is added with ammonium hydroxide to form ammonium diuranate (ADU) precipitate. This slurry is filtered, then there is obtained a cake. The cake is washed, dried and milled. The obtained ADU powder is supplied to a calcining and reducing kiln to manufacture uranium dioxide powder. The uranium dioxide powder manufactured by this process has generally a particle size of about 0.1-3 μm and an example of the particle size distribution thereof is illustrated in FIG. 1.

reactant | uranium hexafluoride | [U](F)(F)(F)(F)(F)F
reactant | uranyl fluoride | [F-].[U+2](=O)=O.[F-]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | ammonium diuranate | [NH4+].[NH4+].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[U].[U] | InChI=1S/2H3N.7O.2U/h2*1H3;;;;;;;;;/q;;7*-2;;/p+2
